US06337351B1
4-Bromo-2-aminotoluene
To a stirred solution of 4-bromo-2-nitrotoluene (2.04 g, 9.44 mmol) (Aldrich Chemical Company) in ethanol (25 mL) was added hydrazine hydrate (1.14 mL, 23.60 mmol) drop-wise. After being stirred for 5 min, a suspension of Raney nickel (˜100 mg) in ethanol (5 mL) was added slowly and carefully. Gas evolution was observed. After gas evolution subsided, the reaction mixture was heated to reflux for 1 h. The reaction mixture was cooled to ambient temperature and filtered. The filtrate was concentrated on a rotary evaporator, diluted with water (25 mL) and extracted with chloroform (3×100 mL). The combined chloroform extracts were dried over sodium sulfate, filtered and concentrated to produce 1.57 g (89.4%) of a colorless oil.

reactant | 4-bromo-2-nitrotoluene | 9.44 mmol, 2.04 g | BrC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6BrNO2
reactant | hydrazine hydrate | 23.60 mmol, 1.14 mL | O.NN
solvent | ethanol | 25 mL | C(C)O | C2H6O
catalyst | Raney nickel | ˜100 mg | [Ni] | Ni
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-Bromo-2-aminotoluene | 1.57 g, 89.4% | BrC1=CC(=C(C=C1)C)N | C7H8BrN
